* C:\users\boris\Desktop\dev\elec-basis\hw2\scheme.asc
V1 N001 0 PULSE(0 125 0.1m 0.001m 0.001m 60m 120m)
L1 N003 0 1.2
R2 N002 N001 2200
R3 N004 N002 2200
R4 0 N004 2200
R5 N002 N003 2200
.tran 0 120m 0 0.1m
.backanno
.end
