* C:\users\boris\Desktop\dev\elec-basis\lab3\LTSpice\Lab3_2_9.asc
V1 N001 0 SINE(0 8.485 365.806 0 0 -150)
R1 N001 N002 17
C1 N002 0 71.454µ
L1 N001 0 23.094m Rser=5
.tran 0 90m 0 0.01m
.backanno
.end
