* C:\users\boris\Desktop\dev\elec-basis\lab3\LTSpice\Lab3_2_6_19.asc
V1 N001 0 SINE(0 8.485 123.896 0 0 -150)
R1 N001 N002 17
C1 N002 N003 71.454µ
L1 N003 0 23.094m Rser=5
.tran 0 80m 0 0.01m
.backanno
.end
