* C:\users\boris\Documents\LTspiceXVII\projects\lab2-2.asc
R1 N001 N002 40
V1 N001 0 PULSE(-2 2 0.1m 0.001m 0.001m 60m 120m)
L1 N002 0 0.48
.tran 0 120m 0 0.1m
.backanno
.end
